US08492378B2
5-[1-(4-methoxyphenyl)-1H-benzimidazol-6-yl]-1,3,4-oxadiazole-2-thiol
A mixture of 1-(4-methoxyphenyl)-1H-benzimidazole-6-carbohydrazide (1.09 g, 3.86 mmol), potassium hydroxide (0.32 g, 5.79 mmol), carbon disulfide (2.31 mL, 38.6 mmol) and ethanol (20 mL) was stirred overnight at room temperature. The reaction mixture was concentrated under reduced pressure, N,N-dimethylformamide (15 ml) was added to the residue, and the resulting mixture was stirred at 100° C. overnight. The reaction mixture was acidified with 1M hydrochloric acid, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was washed with water to give the title compound (0.66 g, yield 53%) as colorless crystals.

reactant | 1-(4-methoxyphenyl)-1H-benzimidazole-6-carbohydrazide | 3.86 mmol, 1.09 g | COC1=CC=C(C=C1)N1C=NC2=C1C=C(C=C2)C(=O)NN | C15H14N4O2
reactant | potassium hydroxide | 5.79 mmol, 0.32 g | [OH-].[K+]
reactant | carbon disulfide | 38.6 mmol, 2.31 mL | C(=S)=S | CS2
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | 5-[1-(4-methoxyphenyl)-1H-benzimidazol-6-yl]-1,3,4-oxadiazole-2-thiol | 0.66 g, yield 53% | COC1=CC=C(C=C1)N1C=NC2=C1C=C(C=C2)C2=NN=C(O2)S | C16H12N4O2S
